US08669229B2
Tolvaptan (0.63 g), 3-[2-(bis-benzyloxy-phosphoryloxy)-4,6-dimethyl-phenyl]-3-methyl-butyric acid (0.70 g), and 4-dimethylaminopyridine (DMAP) (24 mg, 0.22 mmol) were suspended in dichloromethane (10 ml). N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (WSC) (383 mg) was added thereto, and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, dried over anhydrous sodium sulfate. After filtration and concentration under reduced pressure, the residue was purified by silica gel flash chromatography (n-hexane:ethyl acetate=70:30→35:65). The purified product was concentrated under reduced pressure to obtain 0.92 g of 7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 3-[2-(bis-benzyloxy-phosphoryloxy)-4,6-dimethyl-phenyl]-3-methyl-butyrate as white amorphous solid.

reactant | Tolvaptan | 0.63 g | CC=1C=CC=CC1C(=O)NC=2C=CC(=C(C2)C)C(=O)N3CCCC(C4=C3C=CC(=C4)Cl)O | C26H25ClN2O3
reactant | 3-[2-(bis-benzyloxy-phosphoryloxy)-4,6-dimethyl-phenyl]-3-methyl-butyric acid | 0.70 g | C(C1=CC=CC=C1)OP(=O)(OC1=C(C(=CC(=C1)C)C)C(CC(=O)O)(C)C)OCC1=CC=CC=C1 | C27H31O6P
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 383 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Water | O | H2O
catalyst | 4-dimethylaminopyridine | 0.22 mmol, 24 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 3-[2-(bis-benzyloxy-phosphoryloxy)-4,6-dimethyl-phenyl]-3-methyl-butyrate | 0.92 g | C(C1=CC=CC=C1)OP(=O)(OC1=C(C(=CC(=C1)C)C)C(CC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl)(C)C)OCC2=CC=CC=C2 | C53H54ClN2O8P
